US07399759B2
tert-Butyl 3-(1-oxido-2-pyridyl)propanoate
tert-Butyl 3-(2-pyridyl)propanoate (1.0 g, 5.0 mmol) was dissolved in ethyl acetate (5 ml), and 3-chloroperbenzoic acid (ca. 70%, 1.3 g, 5.2 mmol) was added thereto. The reaction mixture was subjected to a silica gel (50 g) column chromatography and eluted with ethyl acetate-ethanol (5:1, v/v) to give the titled compound (0.9 g, 80%). 1H-NMR (CDCl3) δ: 1.41 (9H, s), 2.76 (2H, t, J=7.1 Hz), 3.17 (2H, t, J=7.1 Hz), 7.15-7.32 (3H, m), 8.24 (1H, d, J=5.7 Hz).

reactant | tert-Butyl 3-(2-pyridyl)propanoate | 5.0 mmol, 1.0 g | N1=C(C=CC=C1)CCC(=O)OC(C)(C)C | C12H17NO2
reactant | 3-chloroperbenzoic acid | 5.2 mmol, 1.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 3-(1-oxido-2-pyridyl)propanoate | 0.9 g, 80% | [O-][N+]1=C(C=CC=C1)CCC(=O)OC(C)(C)C | C12H17NO3
